US03966713
460 mg. of 17α-ethinyl-6α,7α-epoxy-11β-fluoro-17β-hydroxy-4-androsten-3-one is introduced at room temperature into 25 ml. of glacial acetic acid saturated with gaseous hydrogen chloride. After 20 hours, the solution is poured into ice/water. The thus-precipitated product is vacuum-filtered and worked up as indicated in Example 17. After chromatography of the crude product on silica gel with acetone/hexane, 215 mg. of 17α-ethinyl-6-chloro-11β-fluoro-17β-hydroxy-4,6-androstadien-3-one is obtained as a foamy product. UV: ε282 = 20,600 (methanol).

reactant | 17α-ethinyl-6α,7α-epoxy-11β-fluoro-17β-hydroxy-4-androsten-3-one | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1[C@H]3[C@@H](C4=CC(CC[C@]4(C)[C@H]1[C@H](C2)F)=O)O3)O | C21H25FO3
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 17α-ethinyl-6-chloro-11β-fluoro-17β-hydroxy-4,6-androstadien-3-one | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1C=C(C3=CC(CC[C@]3(C)[C@H]1[C@H](C2)F)=O)Cl)O | C21H24ClFO2
